US08349833B2
5-[1-(2-Chlorophenyl)-7-ethoxycarbonyl-7-methyloctyl]-4,5,6,7-tetrahydropyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester (0.12 g, 0.23 mmol) was dissolved in dichloromethane (5 mL) with stirring under an argon atmosphere. TFA (0.48 mL, 4.75 mmol) was added to the solution. After 1 hour, TLC showed the starting material was gone. The mixture was poured into ice cold water (50 mL) and extracted with dichloromethane (3×20 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by column chromatography (silica gel, ethyl acetate/heptane=1/9 to 1/3) to afford 8-(2-chlorophenyl)-2,2 dimethyl-8-(1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-5-yl)-octanoic acid ethyl ester (Compound Ir, 65 mg, 65.9% yield) as a yellow oil. 1H NMR (Field: 300 MHz, Solvent: CD3OD/TMS) δ (ppm): 7.80 (s, 1H), 7.54 (d, 1H, J=7.5 Hz), 7.37 (d, 1H, J=7.8 Hz), 7.26-7.16 (m, 2H), 6.60 (s, 1H), 5.94 (s, 1H), 4.17 (m, 1H), 4.08 (q, 2H, J=7.2 Hz), 3.75 (d, 1H, J=13.2 Hz), 3.35 (d, 1H, J=13.2 Hz), 2.83-2.57 (m, 4H), 2.01-1.56 (m, 4H), 1.45-1.40 (m, 2H), 1.21 (t, 3H, J=7.2 Hz), 1.24-1.11 (m, 4H), 1.11 (s, 6H). 13C NMR (Field: 75 MHz, Solvent: CDCl3/TMS) δ (ppm): 178.14, 140.07, 134.95, 129.43, 129.25, 127.82, 126.79, 125.12, 116.43, 115.93, 105.80, 63.89, 60.37, 48.79, 48.32, 42.37, 40.94, 33.34, 30.64, 25.55, 25.41, 25.08, 24.07, 14.56. HRMS (HR, DART-TOF): Calculated for C25H35ClN2O2 (M+H)+: 431.2460, found 431.2476.

reactant | 5-[1-(2-Chlorophenyl)-7-ethoxycarbonyl-7-methyloctyl]-4,5,6,7-tetrahydropyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester | 0.23 mmol, 0.12 g | C(C)(C)(C)OC(=O)N1C=CC=2CN(CCC21)C(CCCCCC(C)(C)C(=O)OCC)C2=C(C=CC=C2)Cl | C30H43ClN2O4
reactant | TFA | 4.75 mmol, 0.48 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 8-(2-chlorophenyl)-2,2 dimethyl-8-(1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-5-yl)-octanoic acid ethyl ester | 65 mg, 65.9% yield | C(C)OC(C(CCCCCC(N1CC2=C(CC1)NC=C2)C2=C(C=CC=C2)Cl)(C)C)=O | C25H35ClN2O2
